US05494926
Bromoacetonitrile (570 μl) was stirred in a 0.5M solution of anhydrous DMF (15ml) at 60° C. with potassium carbonate (2.07g) for 5 minutes before (S)-2-amino-1-((3,5-bis(trifluoromethyl) phenyl)methyloxy)-2-phenylethane (2.7g, Example 2b, liberated from the salt by extraction into ethyl acetate from aqueous Na2CO3 solution) was added. After 1.5 hours, the solution was cooled and the reaction quenched with water (100ml) and diluted with Ethyl acetate (60ml). The mixture was separated and the aqueous layer further extracted with ethyl acetate (4×30ml). The combined organic extracts were washed with brine (1×30ml), dried (MgSO4) and evaporated to a dark oil (4.1g). The crude oil was purified by flash silica gel chromatography in Ethyl acetate/hexane (1:1) to yield (S)-1-((3,5-bis(trifluoromethyl)phenyl)methyloxy)-2-cyanomethylamino-2-phenylethane as a viscous oil 2.5g. 1H NMR (250MHz, CDCl3) δ 7.82 (1H, s, Ar), 7.79 (2H, s, ArH), 7.36 (5H, m, Ph), 4.67 (2H, s, OCH2Ar), 4.27 (1H, t, J=6.5Hz, PhCHN), 3.68 (1H, d, J=17Hz) and 3.31 (1H, d, J=17Hz, CH2CN). m/z (CI+) 403 (M+1, 100%).

reactant | Bromoacetonitrile | 570 μl | BrCC#N | C2H2BrN
reactant | potassium carbonate | 2.07g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-2-amino-1-((3,5-bis(trifluoromethyl) phenyl)methyloxy)-2-phenylethane | N[C@H](COCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C17H15F6NO
solvent | DMF | 15ml | CN(C)C=O | C3H7NO
product | (S)-1-((3,5-bis(trifluoromethyl)phenyl)methyloxy)-2-cyanomethylamino-2-phenylethane | 2.5g | FC(C=1C=C(C=C(C1)C(F)(F)F)COC[C@H](C1=CC=CC=C1)NCC#N)(F)F | C19H16F6N2O
